US09359367B2
Step 2: (R)-3-(4-(4-fluorophenyl)piperazin-1-yl)cyclopent-1-enecarbonitrile
To a stirred solution of 3-bromocyclopent-1-enecarbonitrile (3 g, 17.44 mmol) in N,N-dimethylformamide (25 ml) was added 1-(4-fluorophenyl)piperazine (3.14 g, 17.44 mmol) followed by the addition of triethylamine (7.29 ml, 52.3 mmol) in a dropwise manner at 0° C. The reaction mixture was stirred at 25° C. for 3 h. The progress of reaction was monitored by TLC. The reaction mixture was then concentrated under reduced pressure. The residue was then diluted with ethyl acetate (100 ml) and washed with water (4×30 ml). The organic layer was dried over sodium sulphate, and concentrated under reduced pressure to obtain a crude product. The crude product was purified by flash column over silica gel (100-200 mesh) using 20% ethyl acetate in hexane as eluent to obtain the title compound (2.7 g, 57.1%).

reactant | 3-bromocyclopent-1-enecarbonitrile | 17.44 mmol, 3 g | BrC1C=C(CC1)C#N | C6H6BrN
reactant | 1-(4-fluorophenyl)piperazine | 17.44 mmol, 3.14 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | triethylamine | 52.3 mmol, 7.29 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (R)-3-(4-(4-fluorophenyl)piperazin-1-yl)cyclopent-1-enecarbonitrile | 2.7 g, 57.1% | FC1=CC=C(C=C1)N1CCN(CC1)[C@H]1C=C(CC1)C#N | C16H18FN3
